US07163937B2
A solution of (1R,2S)-methyl 2-((S)-3-(benzyloxy-carbonylamino)-2-oxopyrrolidin-1-yl)-5-oxocyclo-hexanecarboxylate (3.1 g, 8 mmol) in DMSO (7 ml) was treated with t-butylamine (1.75 g, 24 mol) and strirred for 10 minutes before Ti(i-OPr)4 (6.8 g, 24 mol) was added and the resulting mixture was stirred at room temperature for 2.5 h. Then NaBH4 (0.3 g, 8 mol) was added and stirred for 1.5 h before diluting slowly with methanol (gas evolution) and the resulting solution stirred an additional 1 h. While stiring vigorously, a sat'd solution of NaHCO3 was added, and the resulting suspension was filtered through Celite. The filter cake was washed thoroughly with CH2Cl2 several times and the combined washes were transferred to a separatory funnel. The organic layer was separated and washed with water and brine, concentrated and the residue chromatographed on silica gel (5% MeOH/CH2Cl2-8% NH4OH/MeOH/CH2Cl2) to give 3.0 g (80%) of (1R,2S,5R)-methyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)cyclohexane-carboxylate. MS found: (M+H)+=446.30. Also obtained was 400 mg of the isomeric (1R,2S,5S)-methyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)cyclohexanecarboxylate. MS found: (M+H)+=446.3.

reactant | (1R,2S)-methyl 2-((S)-3-(benzyloxy-carbonylamino)-2-oxopyrrolidin-1-yl)-5-oxocyclo-hexanecarboxylate | 8 mmol, 3.1 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](CC(CC1)=O)C(=O)OC)=O | C20H24N2O6
reactant | t-butylamine | 24 mol, 1.75 g | C(C)(C)(C)N | C4H11N
reactant | NaBH4 | 8 mol, 0.3 g | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | (1R,2S,5R)-methyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)cyclohexane-carboxylate | 3.0 g, 80% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(C)(C)C)C(=O)OC)=O | C24H35N3O5
